US07517899B2
To a solution of (2SR,3SR)-2-hydroxy-3-(1H-indol-1-yl)-3-(4-methoxyphenyl)-N-methylpropanamide (900 mg, 2.8 mmol) in anhydrous tetrahydrofuran (50 mL) at room temperature under nitrogen was added dropwise a solution of borane-tetrahydrofuran complex (1.0 M in tetrahydrofuran, 13.9 mL, 13.9 mmol) and the mixture heated to reflux for 3 hours. The reaction mixture was then cooled to 50° C., methanol (20 mL) was added, and the mixture stirred at 50° C. for 1 hour. The cooled reaction mixture was then concentrated under reduced pressure to afford a white solid. Purification by flash chromatography (silica, 15% methanol/dichloromethane) afforded 272 mg (32%) of (1SR,2RS)-1-(1H-indol-1-yl)-1-(4-methoxyphenyl)-3-(methylamino)propan-2-ol as a yellow syrup. The product was dissolved in absolute ethanol (4 mL), a solution of hydrogen chloride (4 M in 1,4-dioxane, 0.28 mL, 1.12 mmol) added, the solution stirred for 10 minutes then concentrated under reduced pressure to afford a white foam. Crystallization from 1: 1: 1 v/v absolute ethanol : diethyl ether: hexane (12 mL) at −35° C. afforded 81.3 mg (8%) of (1SR,2RS)-1-(1H-indol-1-yl)-1-(4-methoxyphenyl)-3-(methylamino)propan-2-ol hydrochloride as a hygroscopic white solid. MS (ES) m/z 311.3 ([M+H]+); HRMS: calcd for C19H22N2O2+H+, 311.17540; found (ESI, [M+H]+), 311.176.

reactant | (2SR,3SR)-2-hydroxy-3-(1H-indol-1-yl)-3-(4-methoxyphenyl)-N-methylpropanamide | 2.8 mmol, 900 mg | OC(C(=O)NC)C(C1=CC=C(C=C1)OC)N1C=CC2=CC=CC=C12 | C19H20N2O3
reactant | borane tetrahydrofuran | 13.9 mmol, 1.0 M, 13.9 mL | B.O1CCCC1
reactant | methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (1SR,2RS)-1-(1H-indol-1-yl)-1-(4-methoxyphenyl)-3-(methylamino)propan-2-ol | 272 mg, 32% | N1(C=CC2=CC=CC=C12)C(C(CNC)O)C1=CC=C(C=C1)OC | C19H22N2O2
